US04921969
Preparation of 1-Isopropyl-2-methylimidazole
The procedure of Example 1 was followed except that 33.1 g (0.32 mol) of N-isopropylethylenediamine, 19.4 g (0.32 mole) of acetic acid and 5.9 g of Harshaw Ni-2715 catalyst were used. About 37.6 g of crude product was recovered. GLC analysis showed that the crude product contained 98% of 1-isopropyl-2-methylimidazole.

reactant | N-isopropylethylenediamine | 0.32 mol, 33.1 g | C(C)(C)NCCN | C5H14N2
reactant | acetic acid | 0.32 mole, 19.4 g | C(C)(=O)O | C2H4O2
product | 1-Isopropyl-2-methylimidazole | C(C)(C)N1C(=NC=C1)C | C7H12N2
